US04616014
A mixture of 4'-chloro-2-hydroxyiminopropiophenone thiosemicarbazone (113.21 g), potassium carbonate (128.71 g) and water (990 ml) was refluxed for 25 hours with stirring, and the reaction mixture was treated with activated charcoal and filtered by suction. To the filtrate was added dropwise methyl iodide (76 g) with stirring, and the stirring was continued for 15 minutes at room temperature. The resulting solid was collected by filtration, washed with water and dissolved in chloroform. The solution was treated with silica gel and filtered, and the filtrate was evaporated under reduced pressure. The residue was washed with diisopropyl ether and dried to give a solid of 6-(4-chlorophenyl)-5-methyl-3-methylthio-1,2,4-triazine (61.1 g).

reactant | 4'-chloro-2-hydroxyiminopropiophenone thiosemicarbazone | 113.21 g | ClC1=CC=C(C=C1)C(C(C)=NO)=NNC(=S)N | C10H11ClN4OS
reactant | potassium carbonate | 128.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | charcoal | C | CH4
solvent | water | 990 ml | O | H2O
product | 6-(4-chlorophenyl)-5-methyl-3-methylthio-1,2,4-triazine | 61.1 g | ClC1=CC=C(C=C1)C1=C(N=C(N=N1)SC)C | C11H10ClN3S
